US07776867B2
Step 4: Preparation of N-isopropyl-5-phenyl-6-(4-(2-(pyrrolidin-1-yl)ethoxy)phenyl)furo[2,3-d]pyrimidin-4-amine (21)
Into a 16×100 mm vial sparged with argon was placed 6-bromo-N-isopropyl-5-phenylfuro[2,3-d]pyrimidin-4-amine (100 mg, 0.301 mmol), 1-(2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)ethyl)pyrrolidine (120 mg, 0.361 mmol), palladium tetrakistriphenylphosphine (17 mg, 0.015 mmol), potassium carbonate (125 mg, 0.903 mmol), DME (4 mL), and water (1 mL). The vial was sealed and heated to 75° C. for 24 hours.

reactant | 6-bromo-N-isopropyl-5-phenylfuro[2,3-d]pyrimidin-4-amine | 0.301 mmol, 100 mg | BrC1=C(C2=C(N=CN=C2NC(C)C)O1)C1=CC=CC=C1 | C15H14BrN3O
reactant | 1-(2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)ethyl)pyrrolidine | 0.361 mmol, 120 mg | CC1(OB(OC1(C)C)C1=CC=C(OCCN2CCCC2)C=C1)C | C18H28BNO3
reactant | potassium carbonate | 0.903 mmol, 125 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DME | 4 mL | COCCOC | C4H10O2
solvent | water | 1 mL | O | H2O
product | N-isopropyl-5-phenyl-6-(4-(2-(pyrrolidin-1-yl)ethoxy)phenyl)furo[2,3-d]pyrimidin-4-amine | C(C)(C)NC=1C2=C(N=CN1)OC(=C2C2=CC=CC=C2)C2=CC=C(C=C2)OCCN2CCCC2 | C27H30N4O2
